US05122523
3.37 g of ethyl 3-(1-naphthyl)-2-[3-(2-tetrahydropyranyloxy)propyl]-2-propenoate was dissolved in 5 ml of ethanol and hydrogenated under atmospheric pressure by means of 10% palladium carbon. The reaction mixture was subjected to filtration, the solvent of the filtrate was distilled off under reduced pressure to obtain 3.36 g of ethyl (2RS)-2-(1-naphthylmethyl)-5-(2-tetrahydropyranyloxy)pentanoate as oily substance.

reactant | ethyl 3-(1-naphthyl)-2-[3-(2-tetrahydropyranyloxy)propyl]-2-propenoate | 3.37 g | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)OCC)CCCOC1OCCCC1 | C23H28O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | palladium carbon | [C].[Pd]
product | ethyl (2RS)-2-(1-naphthylmethyl)-5-(2-tetrahydropyranyloxy)pentanoate | 3.36 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OCC)CCCOC1OCCCC1 | C23H30O4
